US04683078
3,4-Difluoro-4-hydroxybiphenyl (2.0 g, 10 mmols) was dissolved in dried pyridine (5 cc), followed by adding to the solution, a solution obtained by dissolving trans-4-propylcyclohexanecarboxylic acid chloride (2 g, 11 mmols) in dry toluene (10 cc), heating the mixture at 60° C. for 3 hours with stirring, then adding the resulting material to water (100 cc), then washing the separated toluene layer with 6N hydrochloric acid, 2N aqueous solution of NaOH and further with water, distilling off toluene from the toluene layer, and recrystallizing the residual crystals from ethyl acetate (10 cc) to obtain the objective 3,4-difluoro-4'-biphenylyl trans-4-propylcyclohexanecarboxylate (2.5 g, 70%).

reactant | 3,4-Difluoro-4-hydroxybiphenyl | 10 mmols, 2.0 g | FC1C=C(C=CC1(O)F)C1=CC=CC=C1 | C12H10F2O
reactant | trans-4-propylcyclohexanecarboxylic acid chloride | 11 mmols, 2 g | C(CC)[C@@H]1CC[C@H](CC1)C(=O)Cl | C10H17ClO
reactant | water | 100 cc | O | H2O
solvent | pyridine | 5 cc | N1=CC=CC=C1 | C5H5N
solvent | toluene | 10 cc | C1(=CC=CC=C1)C | C7H8
product | 3,4-difluoro-4'-biphenylyl trans-4-propylcyclohexanecarboxylate | 2.5 g, 70% | C(CC)[C@@H]1CC[C@H](CC1)C(=O)OC1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C22H24F2O2
